US06339099B1
3-Hydrazino-2-naphthoic acid
To 3-amino-2-naphthoic acid (15 g, 66.8 mmol) in conc. HCl (100 ml) and water (100 ml) at 0° C. was added NaNO2 (9.22 g, 69 mmol) in 1 g portions while maintaing the reaction temperature below 0° C. After 30 min below 0° C., SnCl2.H2O (75 g) was added in portions over 20 min. The ice bath was removed and stirred at ambient temperature for 1 h. Reaction was filtered and the filter cake washed with water and air dried. The crude material containing tin (II) salts was used as is and gave a mp>300° C.

reactant | 3-amino-2-naphthoic acid | 66.8 mmol, 15 g | NC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H9NO2
reactant | NaNO2 | 69 mmol, 9.22 g | N(=O)[O-].[Na+]
reactant | SnCl2.H2O | 75 g | Cl[Sn]Cl.O
solvent | HCl | 100 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 3-Hydrazino-2-naphthoic acid | N(N)C=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H10N2O2
